US07572808B2
D. Preparation of 8-bromo-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
Crude 3-bromo-4-(4-chlorophenyl)-2-hydrazinylpyridine (7 g, 23 mmol) was dissolved in dry THF (100 mL), and the resulting solution was cooled to 0° C. To this was added 1,1′carbonyldiimidazole (18 g, 111 mmol). The reaction mixture was stirred at room temperature for 10 h. The solvent was evaporated under vacuum, and water (10 mL) was added, which caused solid desired product to precipitate. This was filtered, washed with water (2×25 mL), and dried to obtain the title compound as a yellow solid (6.3 g), which was used without further purification.

reactant | 3-bromo-4-(4-chlorophenyl)-2-hydrazinylpyridine | 23 mmol, 7 g | BrC=1C(=NC=CC1C1=CC=C(C=C1)Cl)NN | C11H9BrClN3
reactant | 1,1′carbonyldiimidazole | 111 mmol, 18 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 8-bromo-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 6.3 g | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(NN2)=O | C12H7BrClN3O
